US08076374B2
Step C. 4-(1-Hydroxymethyl-heptyl)-benzoic acid methyl ester
4-(1-Formyl-heptyl)-benzoic acid methyl ester (3.17 g, 12.1 mmol) is dissolved in ethanol (50 mL) and allowed to stir under nitrogen in an ice bath at 0° C. Sodium borohydride (0.457 g, 12.1 mmol) is added to the mixture in one portion. The reaction is allowed to stir at 0° C. for one hour, then warmed slowly to room temperature for several hours and is monitored by TLC. Upon complete consumption of starting material, the reaction is carefully quenched with water and the ethanol is removed in vacuo. The remaining mixture is diluted with ethyl acetate. The two phases are separated, and the organic layer washed, dried, and concentrated. The title compound is used in the next step without further purification. MS (ES): 265.2 [M+H]+.

reactant | 4-(1-Formyl-heptyl)-benzoic acid methyl ester | 12.1 mmol, 3.17 g | COC(C1=CC=C(C=C1)C(CCCCCC)C=O)=O | C16H22O3
reactant | Sodium borohydride | 12.1 mmol, 0.457 g | [BH4-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-(1-Hydroxymethyl-heptyl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(CCCCCC)CO)=O | C16H24O3
